US07176194B2
d) 4-(4-Aminomethylphenyl)-1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-azetidin-2-one (34)
200 mg of {1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}-benzonitrile were dissolved in 20 ml of ethanol and, with 0.5 ml of conc. ammonia, hydrogenated over Raney nickel at a hydrogen pressure of 75 bar and at 25° C. for 30 hours. The catalyst was filtered off with suction, the mixture was concentrated under reduced pressure and the residue was purified by column filtration (SiO2, CH2Cl2/methanol/conc. NH3=100:10:1). This gives the product of molecular weight 422.5 (C25H22F2N2O2); MS (DCI+): 423 (M+H+), 405 (M+H+-H2O).

reactant | {1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}-benzonitrile | 200 mg | FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O)C1=CC=C(C=C1)F)C1=C(C#N)C=CC=C1 | C25H20F2N2O2
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 0.5 ml | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-(4-Aminomethylphenyl)-1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-azetidin-2-one | NCC1=CC=C(C=C1)C1C(C(N1C1=CC=C(C=C1)F)=O)CCC(O)C1=CC=C(C=C1)F | C25H24F2N2O2
